US05506267
4-(6,7-bis(palmitoyloxy)-4- thiaheptanoyl)amino-N-(1,3-bis(hydroxycarbonyl)propyl)phthalimide
A solution of 4-(6,7-bis(palmitoyloxy)-4-thiaheptanoyl)amino-N-(1,3-bis(t-butyloxycarbonyl)propyl)phthalimide as obtained in Example 64 (191 mg) in trifiuoroacetic acid (5 ml) was stirred at room temperature for 4 hours, followed by concentration, to yield the title compound (170 mg, yield 100%) as a colorless crystal.

reactant | 4-(6,7-bis(palmitoyloxy)-4-thiaheptanoyl)amino-N-(1,3-bis(t-butyloxycarbonyl)propyl)phthalimide | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)NC=1C=C2C(C(=O)N(C2=O)C(CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=CC1)COC(CCCCCCCCCCCCCCC)=O | C59H98N2O11S
solvent | trifiuoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(6,7-bis(palmitoyloxy)-4- thiaheptanoyl)amino-N-(1,3-bis(hydroxycarbonyl)propyl)phthalimide | 170 mg, yield 100% | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)NC=1C=C2C(C(=O)N(C2=O)C(CCC(=O)O)C(=O)O)=CC1)COC(CCCCCCCCCCCCCCC)=O | C51H82N2O11S
